US06277862B1
(S)-N-(a-ethylbenzyl)-3-(cyanomethoxy)-2-phenylquinoline-4-carboxamide
2.0 g (5.23 mmol) of (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide (compound of Description 1), 2.21 g of K2CO3, 0.26 g (1.57 mmol) of KI and 0.52 ml (7.85 mmol) of bromoacetonitrile were stirred in 30 ml of dry THF for 5 hours. The inorganic salts were filtered off and the filtrate was evaporated in vacuo to dryness. The residue was dissolved in CH2Cl2 and the organic phase was washed with H2O, sat. sol. NaHCO3, sat. sol. NaCl, separated, dried over Na2SO4 and evaporated in vacuo to dryness to afford 2.10 g of a brown oil which was flash chromatographed on 230-400 mesh silica gel, eluting with a mixture of hexane/EtOAc 70:30. The crude product was triturated with hexane, filtered, washed and dried to yield 0.75 g of the title compound as a white solid.

reactant | (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide | 5.23 mmol, 2.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C25H22N2O2
reactant | K2CO3 | 2.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 7.85 mmol, 0.52 ml | BrCC#N | C2H2BrN
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (S)-N-(a-ethylbenzyl)-3-(cyanomethoxy)-2-phenylquinoline-4-carboxamide | 2.10 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCC#N | C27H23N3O2
